US07727983B2
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-isopropyl ester (120 mg) was coupled with (S)-2-amino-3-biphenyl-4-yl-propionic acid methyl ester hydrochloride according to general procedure A to provide (S)-7-((S)-2-biphenyl-4-yl-1-methoxycarbonyl-ethylcarbamoyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid isopropyl ester (151 mg, LC/MS: m/z 825).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-isopropyl ester | 120 mg | C(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C29H26Cl2N2O7
reactant | (S)-2-amino-3-biphenyl-4-yl-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O
product | (S)-7-((S)-2-biphenyl-4-yl-1-methoxycarbonyl-ethylcarbamoyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid isopropyl ester | 151 mg | C(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)C(=O)OC)=O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C45H41Cl2N3O8
